US04659361
2-Amino-4-iodo-6-methoxypyrimidine
18.0 g of 2-amino-4-chloro-6-methoxypyrimidine was added to 65 mL of 57% aqueous hydroiodic acid with ice bath cooling. The resulting thick mixture was kept at ambient temperature for 65 hours, diluted with water and neutralized with potassium carbonate. The solid was collected and recrystallized from aqueous ethanol to give 5.0 g of white crystals, m.p. 141.5°-144° C.

reactant | 2-amino-4-chloro-6-methoxypyrimidine | 18.0 g | NC1=NC(=CC(=N1)Cl)OC | C5H6ClN3O
reactant | hydroiodic acid | 65 mL | I | HI
solvent | water | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-Amino-4-iodo-6-methoxypyrimidine | 5.0 g | NC1=NC(=CC(=N1)I)OC | C5H6IN3O
